US07517899B2
1′-[(1S,2S)-2,3-dihydroxy-1-phenyl-propyl]spiro[cyclohexane-1,3′-indol]-2′(1′H)-one (250 mg, 0.71 mmol) was dissolved in pyridine (2.5 mL) and para-toluenesulfonyl chloride (169 mg, 0.89 mmol) was added. The reaction was stirred for 5 hours, then the reaction mixture was diluted with ethyl acetate and washed with water, a saturated aqueous solution of copper sulfate, a 2N aqueous solution of hydrochloric acid, and saturated brine. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude product was immediately dissolved in methylamine (8M solution in ethanol, 15 mL) and stirred for 16 hours. The mixture was concentrated in vacuo and purified via flash column chromatography (silica, 5% methanol saturated with ammonia in chloroform) to give 85 mg (32%) 1′-[(1S,2R)-2-hydroxy-3-(methylamino)-1-phenylpropyl]spiro[cyclo-hexane-1,3′-indol]-2′(1′H)-one as a colorless oil. The freebase was dissolved in diethyl ether (5 mL) and treated with a 1 N ethereal solution of hydrochloric acid (0.23 mL, 0.23 mmol, 1 equivalent). The white precipitate was collected and dried under vacuum to give 193 mg (60%) of 1′-[(1S,2R)-2-hydroxy-3-(methylamino)-1-phenylpropyl]spiro[cyclo-hexane-1,3′-indol]-2′(1′H)-one hydrochloride. HRMS: calcd for C23H28N2O2+H+, 365.22235; found ([M+H]+), 365.2226;

reactant | 1′-[(1S,2S)-2,3-dihydroxy-1-phenyl-propyl]spiro[cyclohexane-1,3′-indol]-2′(1′H)-one | 0.71 mmol, 250 mg | O[C@@H]([C@H](C1=CC=CC=C1)N1C(C2(C3=CC=CC=C13)CCCCC2)=O)CO | C22H25NO3
reactant | para-toluenesulfonyl chloride | 0.89 mmol, 169 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 2.5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1′-[(1S,2R)-2-hydroxy-3-(methylamino)-1-phenylpropyl]spiro[cyclo-hexane-1,3′-indol]-2′(1′H)-one | 85 mg, 32% | O[C@@H]([C@H](C1=CC=CC=C1)N1C(C2(C3=CC=CC=C13)CCCCC2)=O)CNC | C23H28N2O2
